US08492395B2
A mixture of 2-amino-4-methylbenzoic acid (2.0 g, 13 mmol) and CDI (2.0 g, 12 mmol) in acetonitrile (20 mL) was stirred at room temperature for 1.5 hours. To the suspension, was added 3-amino-piperidine-2,6-dione hydrogen chloride (2.0 g, 12 mmol) and sodium hydrogen carbonate (1.3 g, 16 mmol), and the mixture was heated at 50° C. for 21 hours. The suspension was cooled to room temperature for 1 hour. The suspension was filtered and washed with water (50 mL) and ethyl acetate (20 mL). The solid was dried in a vacuum oven overnight to give 2-amino-N-(2,6-dioxo-piperidin-3-yl)-4-methyl-benzamide as a white solid (2.2 g, 69% yield): 1H NMR (DMSO-d6) δ 1.90-1.96 (m, 1H, CHH), 2.05-2.14 (m, 1H, CHH), 2.18 (s, 3H, CH3), 2.49-2.55 (m, 1H, Cull), 2.72-2.84 (m, 1H, CHH), 4.67-4.75 (m, 1H, NCH), 6.36 (dd, J=2, 8 Hz, 1H, Ar), 6.43 (br, 2H, NHH, Ar), 6.51 (s, 1H, NHH), 7.43 (d, J=8 Hz, 1H, Ar), 8.38 (d, J=8 Hz, 1H, NH), 10.83 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.05, 24.21, 30.99, 48.97, 111.26, 115.74, 116.48, 128.09, 141.71, 149.96, 168.54, 172.50, 173.04; LCMS: MH=262.

reactant | 2-amino-4-methylbenzoic acid | 13 mmol, 2.0 g | NC1=C(C(=O)O)C=CC(=C1)C | C8H9NO2
reactant | CDI | 12 mmol, 2.0 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-amino-piperidine-2,6-dione hydrogen chloride | 12 mmol, 2.0 g | Cl.NC1C(NC(CC1)=O)=O
reactant | sodium hydrogen carbonate | 16 mmol, 1.3 g | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-amino-N-(2,6-dioxo-piperidin-3-yl)-4-methyl-benzamide | 2.2 g, 69% yield | NC1=C(C(=O)NC2C(NC(CC2)=O)=O)C=CC(=C1)C | C13H15N3O3
